US04237055
11-Benzyloxy-1-bromo-6,10-dimethyl-5,6-epoxy-undecan-2-one (16.2 g, 41 mM) in acetone (170.5 ml) is treated with 0.2 N hydrochloric acid (18.75 ml) at 0° C. for 0.75 hours. The reaction mixture is then stirred at room temperature for 18 hours. The solvent is removed in vacuo and the residue obtained is treated with ether, brine and saturated sodium bicarbonate. The phases are separated and the aqueous phase is extracted with ether. The combined extracts are washed with brine and dried (Na2SO4). The solvent is removed in vacuo to give crude 7-benzyloxy-2-(2-bromomethyl-2-hydroxy-tetrahydrofuran-5-yl)-6-methyl-heptan-2-ol (17 g).

reactant | 11-Benzyloxy-1-bromo-6,10-dimethyl-5,6-epoxy-undecan-2-one | 41 mM, 16.2 g | C(C1=CC=CC=C1)OCC(CCCC1(C(CCC(CBr)=O)O1)C)C | C20H29BrO3
reactant | hydrochloric acid | 0.2 N, 18.75 ml | Cl | ClH
reactant | ether | CCOCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 170.5 ml | CC(=O)C | C3H6O
solvent | brine | [Cl-].[Na+].O
product | 7-benzyloxy-2-(2-bromomethyl-2-hydroxy-tetrahydrofuran-5-yl)-6-methyl-heptan-2-ol | 17 g | C(C1=CC=CC=C1)OCC(CCCC(C)(O)C1CCC(O1)(O)CBr)C | C20H31BrO4
